US04105681
4-methoxy-3,5-diethyl-2,6-dimethyl-benzyl-triphenylphosphonium chloride is condensed with 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester to produce the 9-(4-methoxy-3,5-diethyl-2,6-dimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester which is converted by the procedure of Example 7 to 9-(4-methoxy-3,5-diethyl-2,6-dimethyl-phenyl)-acid, m.p.: 153°-154° C.

reactant | 4-methoxy-3,5-diethyl-2,6-dimethyl-benzyl-triphenylphosphonium chloride | [Cl-].COC1=C(C(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=C1CC)C)C)CC
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
product | 9-(4-methoxy-3,5-diethyl-2,6-dimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C=CC1=C(C(=C(C(=C1C)CC)OC)CC)C)C)C)=O | C26H36O3
